US07902375B2
Step 1{2-[2-(2-Fluoro-ethyl)-2H-tetrazol-5-yl]-ethyl}-carbamic acid tert-butyl ester
To a solution comprising [2-(1H-Tetrazol-5-yl)-ethyl]-carbamic acid tert-butyl ester (EP 449523) (0.125 g, 0.586 mmol) in DMF (5 ml) is added caesium carbonate (0.23 g, 0.703 mmol) followed by 1-bromo-2-fluoroethane (0.174 ml, 2.344 mmol) and the reaction mixture is left to stir at room temperature for 3 days. The solvent is removed in vacuo and the crude residue is purified by flash silica chromatography (elution 3:2 increasing to 1:4 hexane/ethyl acetate) to afford the titled compound and {2-[1-(2-Fluoro-ethyl)-1H-tetrazol-5-yl]-ethyl}-carbamic acid tert-butyl ester.

reactant | [2-(1H-Tetrazol-5-yl)-ethyl]-carbamic acid tert-butyl ester | 0.586 mmol, 0.125 g | C(C)(C)(C)OC(NCCC1=NN=NN1)=O | C8H15N5O2
reactant | caesium carbonate | 0.703 mmol, 0.23 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-bromo-2-fluoroethane | 2.344 mmol, 0.174 ml | BrCCF | C2H4BrF
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | {2-[1-(2-Fluoro-ethyl)-1H-tetrazol-5-yl]-ethyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCC1=NN=NN1CCF)=O | C10H18FN5O2
